US08258144B2
5-bromo-N4-cyclobutyl-N2-(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
A mixture of 5-bromo-2-chloro-N-cyclobutyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (64 mg, 0.21 mmol), 6-aminoindazole (56 mg, 0.42 mmol) and TMSCl (0.050 mL, 0.40 mmol) in nBuOH (2 mL) was stirred at 116° C. for 4 h. It was then concentrated in vacuo. The residue was purified by HPLC to give a sample, which was further purified by preparative TLC using CH2Cl2/MeOH (95/5) as developing solvents to give the titled compound (1 mg). MS 398.3, 400.3 (M+H, Br pattern); UV 203.8, 247.4, 309.1 nm.

reactant | 5-bromo-2-chloro-N-cyclobutyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.21 mmol, 64 mg | BrC1=CNC=2N=C(N=C(C21)NC2CCC2)Cl | C10H10BrClN4
reactant | 6-aminoindazole | 0.42 mmol, 56 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | TMSCl | 0.40 mmol, 0.050 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | 5-bromo-N4-cyclobutyl-N2-(1H-indazol-6-yl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 1 mg | BrC1=CNC=2N=C(N=C(C21)NC2CCC2)NC2=CC=C1C=NNC1=C2 | C17H16BrN7
